US07429665B2
2-[2-Chloro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline but substituting methyl hydrazine and 1-[3-Chloro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.47 (d, J=6.2 Hz, 2 H), 8.21 (d, J=8.3 Hz, 1 H), 8.04 (d, J=7.5 Hz, 1H), 7.83 (d, J=8.3 Hz, 1 H), 7.78 (d, J=8.7 Hz, 1 H), 7.72 (m, 1H), 7.56 (m, 3 H), 7.21 (m, 1H), 7.14 (d, J=6.2 Hz, 2 H), 6.97 (d, J=8.7 Hz, 1 H), 5.46 (s, 2H), 3.95 (s, 3H); MS: (M+H m/z=427.1).

reactant | 2-{2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-ethyl}-quinoline | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1 | C25H20N4
reactant | methyl hydrazine | CNN | CH6N2
reactant | 1-[3-Chloro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone | ClC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H17ClN2O2
product | 2-[2-Chloro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | ClC1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC(=C1)C1=NN(C=C1C1=CC=NC=C1)C | C25H19ClN4O
